US04363807
Methanol (10 ml) and acetic acid (3 ml.) were added to a solution of 4-nitrobenzyl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-acetoxymethylenecepham-4-carboxylate (syn isomer, 2.5 g.) in tetrahydrofuran (60 ml.). 10% palladium-carbon (0.5 g.) containing water (2 ml.) was added to a solution and the mixture was subjected to catalytic reduction under ordinary pressure for 3 hours. After removing the insoluble substance from the resultant mixture by filtration, the filtrate was concentrated under reduced pressure. Ethyl acetate and an aqueous solution of sodium bicarbonate were added to the solution and adjusted to pH 7.5. The insoluble substance was removed from the mixture. The aqueous layer was separated, adjusted to pH 5.0 and washed with ethyl acetate. The solution was adjusted to pH 3.0 and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and treated with activated charcoal. After concentrating the solution under reduced pressure, the residue was pulverized with diisopropyl ether and collected by filtration to give 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-acetoxymethylenecepham-4-carboxylic acid (syn isomer, 0.27 g.).

reactant | Methanol | 10 ml | CO | CH4O
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
reactant | 4-nitrobenzyl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-acetoxymethylenecepham-4-carboxylate | 2.5 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(C(CS2)=COC(C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC | C23H22N6O9S2
reactant | water | 2 ml | O | H2O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 0.5 g | [C].[Pd]
product | 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-acetoxymethylenecepham-4-carboxylic acid | 0.27 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(C(CS2)=COC(C)=O)C(=O)O)C1=O)=NOC | C16H17N5O7S2
